US08809012B2
Step 1: Synthesis of methyl 2-(octylamino)acetate
Under argon condition, glycine methyl ester (358 mg, 2.85 mmol) was dissolved in 2 mL of dry DMF, and then DIPEA (620 μL, 3.56 mmol) and 1-bromooctane (123 μL, 0.712 mmol) were added, and the reaction mixture was stirred for one day at room temperature. Upon completion of the reaction, the reaction was terminated by adding 5 mL of water, and the reaction mixture was extracted with diethyl ether (4 mL×4). The organic layer thus obtained was treated with anhydrous magnesium sulfate to remove water. The precipitate was filtered out and the resulting solution was concentrated by distillation under reduced pressure and purified by column chromatography to obtain 31.6 mg (0.157 mmol, 22%) of the desired compound.

reactant | glycine methyl ester | 2.85 mmol, 358 mg | COC(CN)=O | C3H7NO2
reactant | DIPEA | 3.56 mmol, 620 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-bromooctane | 0.712 mmol, 123 μL | BrCCCCCCCC | C8H17Br
reactant | magnesium sulfate | S(=O)(=O)([O-])[O-].[Mg+2]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | methyl 2-(octylamino)acetate | 0.157 mmol, 31.6 mg, 22% | C(CCCCCCC)NCC(=O)OC | C11H23NO2
